US06403822B2
The procedure of Synthesis Example 1 was repeated except that tert-butyl acetate was used instead of 1-ethylcyclopentyl acetate, and 8-tetracyclo[4.4.0.12,5.17,10]-dodecene-3-carbaldehyde was used instead of 5-norbornene-2-carbaldehyde. There was obtained tert-butyl 3-hydroxy-3-(8-tetracyclo[4.4.0.12,5.17,10]dodecen-3-yl)propionate. Yield 93%.

reactant | tert-butyl acetate | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 8-tetracyclo[4.4.0.12,5.17,10]-dodecene-3-carbaldehyde | C12C3C(CC(C2C2C=CC1C2)C3)C=O | C13H16O
product | tert-butyl 3-hydroxy-3-(8-tetracyclo[4.4.0.12,5.17,10]dodecen-3-yl)propionate | Yield 93% | OC(CC(=O)OC(C)(C)C)C1C2C3C4C=CC(C3C(C1)C2)C4 | C19H28O3
